US03980700
To 3000 parts by volume of an aqueous solution containing 6.7 parts of potassium hydroxide is added, with stirring at 21°-23° over a period of about 21/4 hours, a solution of 10.4 parts of 14-phenyl-9,12-dioxo- 11-hydroxytetradec-13-enoic acid in 187 parts of chloroform. After completion of the addition, the reaction mixture is stirred for an additional 2 hours, then is made acidic by adding 10 parts of oxalic acid dihydrate. The acidic mixture is extracted with chloroform and the organic layer is washed with dilute aqueous sodium chloride, then dried over anhydrous sodium sulfate and concentrated to dryness under reduced pressure. The resulting residue is recrystallized first from benzene, then from chloroform-ether to yield 3-hydroxy-5-oxo-2 -styrylcyclopent-1eneheptanoic acid, which displays a melting point at about 118°. This compound displays an ultraviolet absorption maximum at about 325 millimicrons with a molecular extinction coefficient of about 36,400 and is further characterized by the following structural formula ##SPC3##

reactant | potassium hydroxide | [OH-].[K+]
reactant | 14-phenyl-9,12-dioxo- 11-hydroxytetradec-13-enoic acid | C1(=CC=CC=C1)C=CC(C(CC(CCCCCCCC(=O)O)=O)O)=O | C20H26O5
reactant | oxalic acid dihydrate | O.O.C(C(=O)O)(=O)O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-hydroxy-5-oxo-2 -styrylcyclopent-1eneheptanoic acid | OC1C(=C(C(C1)=O)CCCCCCC(=O)O)C=CC1=CC=CC=C1 | C20H24O4
